US07407964B2
(S)-6-Oxo-piperidine-2-carboxylic acid tert-butyl ester
To a solution of (S)-6-oxo-piperidine-1,2-dicarboxylic acid di-tert-butyl ester (6.30 g, 21.0 mmol) in ethyl acetate (50 mL) was added 1.1-M HCl in ethyl acetate (28.7 mL, 31.5 mmol). The reaction was stirred at room temperature for 1 h, then washed with water, saturated aq.NaHCO3 and brine. The organic phase was dried (MgSO4), filtered and evaporated to afford the title compound as a yellow oil which crystallized upon standing (3.11 g, 74%): 1H NMR (400 MHz, CDCl3) δ 1.49 (9H, s), 1.74-1.94 (3H, m), 2.18 (1H, m), 2.29-2.44 (2H, m), 3.95-3.98 (1H, m), 6.32 (1H, br s); 13C NMR (100 MHz, CDCl3) δ 19.9 (CH2), 25.9 (CH2), 28.4 (CH3), 31.4 (CH2), 55.7 (CH), 83.0 (C), 170.4 (C), 171.9 (C).

reactant | (S)-6-oxo-piperidine-1,2-dicarboxylic acid di-tert-butyl ester | 21.0 mmol, 6.30 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1=O)C(=O)OC(C)(C)C | C15H25NO5
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 31.5 mmol, 28.7 mL | C(C)(=O)OCC | C4H8O2
product | (S)-6-Oxo-piperidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1NC(CCC1)=O | C10H17NO3
